US06642228B1
(3-(4-Indol-3-ylpiperidyl)propyl)dimethylamine Hydrochloride
To a suspended solution of 4-(3-indolyl)piperidine (1.0 g, 5.0 mmol) and a 96% 3-dimethylaminopropyl chloride hydrochloride (0.91 g, 5.5 mmol) in acetonitrile (50 mL) was added potassium carbonate (2.07 g, 15 mmol) and sodium iodide (0.82 g, 5.5 mmol), and the resulting mixture was refluxed for 5 hours. After the precipitated salt was filtered off, the filtrate was concentrated, and water (40 mL) was added to the filtrate and the mixture was extracted with chloroform. After drying over anhydrous sodium sulfate, the chloroform layer was concentrated, and the resulting crude product was purified by column chromatography on a silica gel (silica gel NH-DM 1020 produced by Fuji Silysia Chemical Ltd., eluent; ethyl acetate) to afford a free form (1.2 g) of the title compound as pale red crystals. After adding hydrochloric acid/methanol to a solution of the free form in methanol, the mixture was concentrated and was then recrystallized from methanol/ether to afford the title compound (1.2 g, yield: 69%) as pale yellow crystals.

reactant | 4-(3-indolyl)piperidine | 5.0 mmol, 1.0 g | N1C=C(C2=CC=CC=C12)C1CCNCC1 | C13H16N2
reactant | 3-dimethylaminopropyl chloride hydrochloride | 5.5 mmol, 0.91 g | Cl.CN(CCCCl)C
reactant | potassium carbonate | 15 mmol, 2.07 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 5.5 mmol, 0.82 g | [I-].[Na+]
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | (3-(4-Indol-3-ylpiperidyl)propyl)dimethylamine Hydrochloride | 1.2 g | Cl.N1C=C(C2=CC=CC=C12)C1CCN(CC1)CCCN(C)C | InChI=1S/C18H27N3.ClH/c1-20(2)10-5-11-21-12-8-15(9-13-21)17-14-19-18-7-4-3-6-16(17)18;/h3-4,6-7,14-15,19H,5,8-13H2,1-2H3;1H
